US08648066B2
A mixture 4-[6,7-bis(methyloxy)quinolin-4-yl]-7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine (78 mg, 0.19 mmol), 4-amino-3-nitrophenylboronic acid pinacol ester (59 mg, 0.23 mmol), potassium carbonate (105 mg, 0.76 mmol), and dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane adduct (20 mg, 0.02 mmol) in dimethoxyethane (3 mL) was stirred at 80° C. for 3 h. Ethyl acetate (50 mL) was added and the mixture was washed with water (20 mL), and brine (20 mL), dried over sodium sulfate, and concentrated. Column chromatography on silica (dichloromethane:methanol 95:5) gave 4-{4-[6,7-bis(methyloxy)quinolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-2-nitroaniline (56 mg, 63% yield). MS (EI) for C26H24N4O5: 473 (MH+).

reactant | 4-[6,7-bis(methyloxy)quinolin-4-yl]-7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine | 0.19 mmol, 78 mg | COC=1C=C2C(=CC=NC2=CC1OC)N1CCOC2=C(C1)C=C(C=C2)Br | C20H19BrN2O3
reactant | 4-amino-3-nitrophenylboronic acid pinacol ester | 0.23 mmol, 59 mg | NC1=C(C=C(C=C1)B1OC(C)(C)C(C)(C)O1)[N+](=O)[O-] | C12H17BN2O4
reactant | potassium carbonate | 0.76 mmol, 105 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethoxyethane | 3 mL | C(OC)COC | C4H10O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.02 mmol, 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-{4-[6,7-bis(methyloxy)quinolin-4-yl]-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl}-2-nitroaniline | 56 mg, 63% yield | COC=1C=C2C(=CC=NC2=CC1OC)N1CCOC2=C(C1)C=C(C=C2)C2=CC(=C(N)C=C2)[N+](=O)[O-] | C26H24N4O5
